US09428510B2
15.26 mL (1.2 eq) of potassium 2-methylpropan-2-olate and then 9.03 g (1.2 eq) of 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide are added dropwise to a solution of 3.5 g (21.06 mmol) of 6-hydroxy-2-(methylthio)nicotinonitrile in 180 mL of tetrahydrofurane under nitrogen. The reaction mixture is stirred at room temperature for 2 h 45. Water is added and the product is extracted with ethyl acetate. The organic phase is dried on anhydrous magnesium sulfate, filtered and evaporated to yield an orange solid. The product is purified on a silica gel column (eluent: cyclohexane/dichloromethane 5:5) to yield 5.31 g (85%) of 5-cyano-6-(methylthio)pyridin-2-yl trifluoromethanesulfonate in the form of a yellow solid.

reactant | potassium 2-methylpropan-2-olate | 15.26 mL, 1.2 eq | CC(C)(C)[O-].[K+]
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 9.03 g, 1.2 eq | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | 6-hydroxy-2-(methylthio)nicotinonitrile | 21.06 mmol, 3.5 g | OC1=NC(=C(C#N)C=C1)SC | C7H6N2OS
reactant | Water | O | H2O
solvent | tetrahydrofurane | 180 mL | O1CCCC1 | C4H8O
product | 5-cyano-6-(methylthio)pyridin-2-yl trifluoromethanesulfonate | 5.31 g, 85% | FC(S(=O)(=O)OC1=NC(=C(C=C1)C#N)SC)(F)F | C8H5F3N2O3S2
